US08207177B2
Step e: (1S,2R,3S,5S)-3-(Hydroxymethyl)-2-methyl-6-oxabicyclo[3.1.0]hexan-2-ol
To a solution of (1S,5S)-5-(hydroxymethyl)-1-methylcyclopent-2-en-1-ol (0.181 g, 0.00141 mol) in DCM (18.0 mL) was added sodium bicarbonate (237 mg, 2.82 mmol) and the mixture was cooled to 0° C. To this mixture was added 3-chloroperbenzoic acid (380. mg, 1.69 mmol) and the reaction was stirred at rt for 4 h. The solvent was removed in vacuo and silica gel chromatography eluting with a gradient of 0 to 100% EtOAc in DCM afforded the title compound (200 mg, 98%). LC/MS: Rt=0.52 min, ES+ 145 (AA standard).

reactant | (1S,5S)-5-(hydroxymethyl)-1-methylcyclopent-2-en-1-ol | 0.00141 mol, 0.181 g | OC[C@@H]1CC=C[C@@]1(O)C | C7H12O2
reactant | sodium bicarbonate | 2.82 mmol, 237 mg | C([O-])(O)=O.[Na+]
reactant | 3-chloroperbenzoic acid | 1.69 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | DCM | 18.0 mL | C(Cl)Cl | CH2Cl2
product | (1S,2R,3S,5S)-3-(Hydroxymethyl)-2-methyl-6-oxabicyclo[3.1.0]hexan-2-ol | 200 mg, 98% | OC[C@H]1[C@]([C@H]2O[C@H]2C1)(O)C | C7H12O3
